Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
[CH3:1][C:2](=[O:3])[c:4]1[cH:21][cH:20][c:7]([C:8]2([F:9])[CH2:10][N:11]([C:12](=[O:13])[O:14][C:15]([CH3:16])([CH3:17])[CH3:18])[CH2:19]2)[cH:6][cH:5]1.[O:22]=[C:23]([c:24]1[cH:25][c:26]([Cl:27])[cH:28][c:29]([Cl:30])[cH:31]1)[C:32]([F:33])([F:34])[F:35]>>[CH2:1]([C:2](=[O:3])[c:4]1[cH:5][cH:6][c:7]([C:8]2([F:9])[CH2:10][N:11]([C:12](=[O:13])[O:14][C:15]([CH3:16])([CH3:17])[CH3:18])[CH2:19]2)[cH:20][cH:21]1)[C:23]([OH:22])([c:24]1[cH:25][c:26]([Cl:27])[cH:28][c:29]([Cl:30])[cH:31]1)[C:32]([F:33])([F:34])[F:35],[CH3:1][C:2](=[O:3])[c:4]1[cH:5][cH:6][c:7]([C:8]2([F:9])[CH2:10][N:11]([C:12](=[O:13])[O:14][C:15]([CH3:16])([CH3:17])[CH3:18])[CH2:19]2)[cH:20][cH:21]1.[O:22]=[C:23]([c:24]1[cH:25][c:26]([Cl:27])[cH:28][c:29]([Cl:30])[cH:31]1)[C:32]([F:33])([F:34])[F:35].[Na+].[OH1-:301]>>[CH2:1]([C:2](=[O:3])[c:4]1[cH:5][cH:6][c:7]([C:8]2([F:9])[CH2:10][N:11]([C:12](=[O:13])[O:14][C:15]([CH3:16])([CH3:17])[CH3:18])[CH2:19]2)[cH:20][cH:21]1)[C:23]([OH:22])([c:24]1[cH:25][c:26]([Cl:27])[cH:28][c:29]([Cl:30])[cH:31]1)[C:32]([F:33])([F:34])[F:35],aldol_addition,"[(301, 1.1), ([1.1, 1], [1, 2]), ([2, 3], 3), (3, [3, 2]), ([2, 1], 23), ([23, 22], 22), (22, 301.1), ([301.1, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Br[CH2:1][c:2]1[cH:3][cH:4][n:5][cH:6][cH:7]1.[N:8]#[C:9][c:10]1[cH:11][cH:12][c:13]([N:14]([CH2:15][c:16]2[cH:17][cH:18][cH:19][cH:20][c:21]2[C:22]([F:23])([F:24])[F:25])[C@H:26]2[CH2:27][CH2:28][NH:29][CH2:30]2)[cH:31][cH:32]1>>[CH2:1]([c:2]1[cH:3][cH:4][n:5][cH:6][cH:7]1)[N:29]1[CH2:28][CH2:27][C@H:26]([N:14]([c:13]2[cH:12][cH:11][c:10]([C:9]#[N:8])[cH:32][cH:31]2)[CH2:15][c:16]2[cH:17][cH:18][cH:19][cH:20][c:21]2[C:22]([F:23])([F:24])[F:25])[CH2:30]1,[N:8]#[C:9][c:10]1[cH:11][cH:12][c:13]([N:14]([CH2:15][c:16]2[cH:17][cH:18][cH:19][cH:20][c:21]2[C:22]([F:23])([F:24])[F:25])[C@H:26]2[CH2:27][CH2:28][NH:29][CH2:30]2)[cH:31][cH:32]1.[Br:101][CH2:1][c:2]1[cH:3][cH:4][n:5][cH:6][cH:7]1>>[CH2:1]([c:2]1[cH:3][cH:4][n:5][cH:6][cH:7]1)[N:29]1[CH2:28][CH2:27][C@H:26]([N:14]([c:13]2[cH:12][cH:11][c:10]([C:9]#[N:8])[cH:32][cH:31]2)[CH2:15][c:16]2[cH:17][cH:18][cH:19][cH:20][c:21]2[C:22]([F:23])([F:24])[F:25])[CH2:30]1,SN2,"[(29, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[Mg+][c:1]1[cH:2][cH:3][cH:4][cH:5][cH:6]1.[O:7]=[C:8]([CH2:9][CH:10]1[CH2:11][CH2:12][N:13]([CH2:14][CH:15]2[CH2:16][CH2:17]2)[CH2:18][CH2:19]1)[c:20]1[cH:21][cH:22][c:23]([F:24])[cH:25][cH:26]1>>[c:1]1([C:8]([OH:7])([CH2:9][CH:10]2[CH2:11][CH2:12][N:13]([CH2:14][CH:15]3[CH2:16][CH2:17]3)[CH2:18][CH2:19]2)[c:20]2[cH:21][cH:22][c:23]([F:24])[cH:25][cH:26]2)[cH:2][cH:3][cH:4][cH:5][cH:6]1,[O:7]=[C:8]([CH2:9][CH:10]1[CH2:11][CH2:12][N:13]([CH2:14][CH:15]2[CH2:16][CH2:17]2)[CH2:18][CH2:19]1)[c:20]1[cH:21][cH:22][c:23]([F:24])[cH:25][cH:26]1.[Mg+:101][c:1]1[cH:2][cH:3][cH:4][cH:5][cH:6]1.[OH2:301]>>[c:1]1([C:8]([OH:7])([CH2:9][CH:10]2[CH2:11][CH2:12][N:13]([CH2:14][CH:15]3[CH2:16][CH2:17]3)[CH2:18][CH2:19]2)[c:20]2[cH:21][cH:22][c:23]([F:24])[cH:25][cH:26]2)[cH:2][cH:3][cH:4][cH:5][cH:6]1,Grignard,"[([101, 1], 8), ([8, 7], 101), (301, 101), ([101, 7], 7), (7, 301.1), ([301.1, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])=[O:7].[NH2:8][c:9]1[cH:10][cH:11][c:12]([Cl:13])[cH:14][c:15]1[C:16](=[O:17])[C:18]([F:19])([F:20])[F:21]>>[C:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])(=[O:7])[NH:8][c:9]1[cH:10][cH:11][c:12]([Cl:13])[cH:14][c:15]1[C:16](=[O:17])[C:18]([F:19])([F:20])[F:21],[NH2:8][c:9]1[cH:10][cH:11][c:12]([Cl:13])[cH:14][c:15]1[C:16](=[O:17])[C:18]([F:19])([F:20])[F:21].[Cl:101][C:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])=[O:7]>>[C:1]([C:2]([O:3][CH2:4][CH3:5])=[O:6])(=[O:7])[NH:8][c:9]1[cH:10][cH:11][c:12]([Cl:13])[cH:14][c:15]1[C:16](=[O:17])[C:18]([F:19])([F:20])[F:21],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(8, 1), ([1, 7], 7), (7, [7, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
